US08202858B2
N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-piperidin-4-yl-acetamide Hydrochloride
A solution of 4-({[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamoyl}-methyl)-piperidine-1-carboxylic acid tert-butyl ester (Compound Number 228)(259 mg, 0.45 mmol) was reacted with 4N HCl/dioxan using an analogous procedure to that described for Example E4.2 to yield the title compound (230 mg, 93%).

reactant | 4-({[4-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamoyl}-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 0.45 mmol, 259 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(NCC1CCC(CC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)C)=O | C32H46N6O4
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
product | N-[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-2-piperidin-4-yl-acetamide Hydrochloride | 230 mg, 93% | Cl.CN1N=CC=2CN(C3=C(NC12)C=C(C=C3)C)C(=O)C3CCC(CC3)CNC(CC3CCNCC3)=O | InChI=1S/C27H38N6O2.ClH/c1-18-3-8-24-23(13-18)31-26-22(16-30-32(26)2)17-33(24)27(35)21-6-4-20(5-7-21)15-29-25(34)14-19-9-11-28-12-10-19;/h3,8,13,16,19-21,28,31H,4-7,9-12,14-15,17H2,1-2H3,(H,29,34);1H
